US06541423B1
2.6 1-Methylpyrazol-5-yl 3-Chloro-4-methylbenzothiazole-5-carboxylate
1 g of 3-chloro-4-methylbenzothiazol-5-carboxylic acid (4.4 mol) and 0.46 g of 1-methyl-5-hydroxypyrazole (4.7 mol) were dissolved in 50 ml of abs. acetonitrile and admixed with 1 g of EDC, 0.7 ml of triethylamine and a catalytic amount of DMAP. After the reaction had ended, the solution was poured into water and the product was extracted with ethyl acetate. The organic phase was washed and dried and the product was purified by crystallization/column chromatography. Yield: 0.22 g (16%).

reactant | 3-chloro-4-methylbenzothiazol-5-carboxylic acid | 4.4 mol, 1 g | ClN1CSC2=C1C(=C(C=C2)C(=O)O)C | C9H8ClNO2S
reactant | 1-methyl-5-hydroxypyrazole | 4.7 mol, 0.46 g | CN1N=CC=C1O | C4H6N2O
reactant | acetonitrile | C(C)#N | C2H3N
reactant | EDC | 1 g
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
solvent | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
product | 1-Methylpyrazol-5-yl 3-Chloro-4-methylbenzothiazole-5-carboxylate | ClN1CSC2=C1C(=C(C=C2)C(=O)OC2=CC=NN2C)C | C13H12ClN3O2S
